US06897210B2
Diethyl azodicarboxylate (209 mg, 1.2 mmol) was added dropwise to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinoline (128 mg, 0.4 mmol), (prepared as described for the starting material in Example 2), triphenylphosphine (314 mg, 1.2 mmol) and (S)-(3-hydroxypropyl)-pyrrolidine-2-carboxamide (97 mg, 0.56 mmol), (prepared as described for the starting material in Example 50), in methylene chloride (4 ml). The mixture was stirred for 2 hours at ambient temperature, and further triphenylphosphine (105 mg, 0.4 mmol) and (S)-1-(3-hydroxypropyl)pyrrolidine-2-carboxamide (49 mg, 0.28 mmol) were added followed by the dropwise addition of diethyl azodicarboxylate (70 mg, 0.4 mmol). The mixture was stirred for 1 hour at ambient temperature, and was purified by pouring directly onto a silica column eluting with methylene chloride/acetonitrile/methanol (6/3/1 followed by 60/25/15). The purified oil was triturated with ether, collected by filtration, washed with ether and dried under vacuum. The solid was dissolved in methylene chloride and 2M ethereal hydrogen chloride (0.5 ml) was added. The mixture was diluted with ether and the resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give (S)-7-(3-(2-carbamoylpyrrolidin-1-yl)propoxy)4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride (70 mg, 32%).

reactant | Diethyl azodicarboxylate | 1.2 mmol, 209 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinoline | 0.4 mmol, 128 mg | ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C16H12ClFN2O2
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-(3-hydroxypropyl)-pyrrolidine-2-carboxamide | 0.56 mmol, 97 mg | OCCCN1[C@@H](CCC1)C(=O)N | C8H16N2O2
reactant | triphenylphosphine | 0.4 mmol, 105 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-1-(3-hydroxypropyl)pyrrolidine-2-carboxamide | 0.28 mmol, 49 mg | OCCCN1[C@@H](CCC1)C(=O)N | C8H16N2O2
reactant | diethyl azodicarboxylate | 0.4 mmol, 70 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (S)-7-(3-(2-carbamoylpyrrolidin-1-yl)propoxy)4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride | 70 mg, 32% | Cl.C(N)(=O)[C@H]1N(CCC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | InChI=1S/C23H25ClFN5O3.ClH/c1-32-20-11-15-18(27-13-28-23(15)29-17-6-5-14(24)10-16(17)25)12-21(20)33-9-3-8-30-7-2-4-19(30)22(26)31;/h5-6,10-13,19H,2-4,7-9H2,1H3,(H2,26,31)(H,27,28,29);1H/t19-;/m0./s1
